US07196087B2
To 1.32 g (5.92 mmol)of 4-methoxy-2,6-dinitrobenzonitrile dissolved in 8 mL dimethylformamide was added 2.2 g (2 eq., 11.83 mmol) piperazine-1-carboxylic acid tert-butyl ester. The mixture was heated to 50° C. and stirred overnight, then partitioned between ethyl acetate and water, dried over magnesium sulfate and concentrated under reduced pressure. Column chromatography, eluting with ethyl acetate/hexanes provided 1.48 g of 4-(2-cyano-5-methoxy-3-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 4-methoxy-2,6-dinitrobenzonitrile | 5.92 mmol, 1.32 g | COC1=CC(=C(C#N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C8H5N3O5
reactant | piperazine-1-carboxylic acid tert-butyl ester | 11.83 mmol, 2.2 g, 2 eq. | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 4-(2-cyano-5-methoxy-3-nitro-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.48 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=CC(=C1)OC)[N+](=O)[O-])C#N | C17H22N4O5
